US09259470B2
Sodium carbonate (1.6 g, 15 mmol) was added to 5-fluoro-2-methoxypyridin-4-ylboronic acid (1.0 g, 6.0 mmol) and 2,4-dichloropyrimidine (0.75 g, 5.0 mmol) in 4:1 dioxane/water (25 mL), and the suspension was purged with argon. PdCl2(dppf)*DCM (0.21 g, 0.25 mmol) was added, and the mixture was heated at 80° C. under argon overnight. The reaction mixture was diluted with water, and the resulting solid was collected by vacuum filtration, washed with water, and dried to provide the desired 2-chloro-4-(5-fluoro-2-methoxypyridin-4-yl)pyrimidine (1.2 g, 5.0 mmol, 99% yield) as a solid.

reactant | Sodium carbonate | 15 mmol, 1.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-fluoro-2-methoxypyridin-4-ylboronic acid | 6.0 mmol, 1.0 g | FC=1C(=CC(=NC1)OC)B(O)O | C6H7BFNO3
reactant | 2,4-dichloropyrimidine | 5.0 mmol, 0.75 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | dioxane water | 25 mL | O1CCOCC1.O
solvent | water | O | H2O
catalyst | PdCl2(dppf) | 0.25 mmol, 0.21 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-chloro-4-(5-fluoro-2-methoxypyridin-4-yl)pyrimidine | 5.0 mmol, 1.2 g, 99% yield | ClC1=NC=CC(=N1)C1=CC(=NC=C1F)OC | C10H7ClFN3O
